US04873236
8-Chloro-11-[[[2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A mixture of 3.1 g (0.01 mol) of 8-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 2.6 g (0.0122 mol) of 2-[2-[(diethylamino)methy]-piperidin-1-yl]ethanamine and 310 ml of 1,2-dichloroethane was stirred for 21/2 hours at ambient temperature, then extracted exhaustively with dilute hydrochloric acid. The combined aqueous extracts were made alkaline with saturated aqueous potassium carbonate solution and extracted exhaustively with dichloromethane. The dichloromethane phases were combined, dried over sodium sulphate with the addition of 1 g of animal charcoal and evaporated down in vacuo. After being triturated with diisopropylether the oily residue became crystalline and was recrystallised from acetonitrile. 2.9 g (60% of theory) of colourless crystals were obtained, m.p. 138°-140° C.

reactant | 8-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.01 mol, 3.1 g | ClC=1C=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C1 | C13H7Cl2N3O2
reactant | 2-[2-[(diethylamino)methy]-piperidin-1-yl]ethanamine | 0.0122 mol, 2.6 g | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
solvent | 1,2-dichloroethane | 310 ml | ClCCCl | C2H4Cl2
product | 8-Chloro-11-[[[2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC=1C=CC2=C(C(NC3=C(N2C(=O)NCCN2C(CCCC2)CN(CC)CC)N=CC=C3)=O)C1 | C25H33ClN6O2
